US07265120B2
A solution of 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-5-phenyl-2-pyrazinecarbothioamide (100 mg) and 1-chloroacetone (37.9 mg) in DMF (0.27 ml) was heated at 100-105° C. for 10 hours. After cooling, sat. aq. NaHCO3 solution (0.5 ml) and water (1 ml) were added to the mixture to yield a precipitate. The precipitate was collected by filtration, dissolved in CHCl3, dried over MgSO4 and concentrated under reduced pressure to give a residue. The residue was subjected to column chromatography on silica gel eluting with a mixture of n-hexane and EtOAc (60:40 v/v) to give 6-[5-amino-6-(4-methyl-thiazol-2-yl)-3-phenyl-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone as a solid (58 mg).

reactant | 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-5-phenyl-2-pyrazinecarbothioamide | 100 mg | NC=1C(=NC(=C(N1)C1=CC=CC=C1)C1=NN(C(C=C1)=O)C(C)C)C(N)=S | C18H18N6OS
reactant | 1-chloroacetone | 37.9 mg | ClCC(=O)C | C3H5ClO
reactant | NaHCO3 | 0.5 ml | C(=O)(O)[O-].[Na+]
reactant | water | 1 ml | O | H2O
solvent | DMF | 0.27 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
product | 6-[5-amino-6-(4-methyl-thiazol-2-yl)-3-phenyl-2-pyrazinyl]-2-isopropyl-3(2H)-pyridazinone | 58 mg | NC=1N=C(C(=NC1C=1SC=C(N1)C)C=1C=CC(N(N1)C(C)C)=O)C1=CC=CC=C1 | C21H20N6OS
